### PR TITLE
[Merged by Bors] - feat(Analysis/PSeries): add Schlömilch's generalization of the Cauchy condensation test

### PR DESCRIPTION
**Pull request by deepimpactmir**
---

It is my first PR to mathlib4 so comments on how to improve on the formalisation are welcome.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/PSeries.lean [hunk 1]
```diff
@@ -17,132 +17,218 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+partial sums of the other series.
 -/
 
+/--
+A sequence `u` has the property that its ratio of successive differences is bounded
+when there is a positive real number `C` such that, for all n ∈ ℕ,
+(u (n + 2) - u (n + 1)) ≤ C * (u (n + 1) - u n)
+-/
+def succ_diff_bounded (u : ℕ → ℕ) : Prop :=
+  ∃ (C : ℝ≥0∞) (_ : C ≠ ∞) (_ : C > 0), ∀ (n : ℕ), (u (n + 2) - u (n + 1)) ≤ C * (u (n + 1) - u n)
```
Comment (j-loreaux) [inline Mathlib/Analysis/PSeries.lean:45]: No need to use `C : ℝ≥0∞` if you are just going to assume `C ≠ ∞`, instead just use `ℝ≥0`. Also, with this notation notice that we can combine the existence of `C` with the assumption that it is positive.
```suggestion
  ∃ C > (0 : ℝ≥0), ∀ (n : ℕ), (u (n + 2) - u (n + 1)) ≤ C * (u (n + 1) - u n)
```
However, I think ultimately I would just pass `C` as an argument to `succ_diff_bounded` like we do with [LipschitzOnWith](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/Lipschitz.html#LipschitzOnWith) instead of hiding it behind the existential. That way we can access the `C`.

Finally, I suspect that a lot of the pain you are dealing with is a result of coercions, some of which are caused by this definition. If you choose `C : ℕ` instead, it may make your life significantly easier.

File: Mathlib/Analysis/PSeries.lean [hunk 2]
```diff
@@ -17,132 +17,218 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
-
-theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) :
-    ∑' k, f k ≤ f 0 + ∑' k : ℕ, 2 ^ k * f (2 ^ k) := by
-  rw [ENNReal.tsum_eq_iSup_nat' (Nat.tendsto_pow_atTop_atTop_of_one_lt _root_.one_lt_two)]
-  refine' iSup_le fun n => (Finset.le_sum_condensed hf n).trans (add_le_add_left _ _)
-  simp only [nsmul_eq_mul, Nat.cast_pow, Nat.cast_two]
+variable {u : ℕ → ℕ} {f : ℕ → ℝ≥0∞}
+
+theorem strict_monotone_atTop_atTop (strict_mono : ∀ ⦃m n⦄, 0 ≤ m → m < n → u m < u n) :
+    Tendsto u atTop atTop := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/PSeries.lean:124]: I know this file didn't phrase things in terms of [Monotone](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#Monotone), [StrictMono](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#StrictMono), [MonotoneOn](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#MonotoneOn) or [StrictMonoOn](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#StrictMonoOn), but it probably would be nice if it did. I encourage you to rephrase this file in that language.

If you use those then this lemma is just [StrictMono.tendsto_atTop](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot.html#StrictMono.tendsto_atTop).

File: Mathlib/Analysis/PSeries.lean [hunk 3]
```diff
@@ -17,132 +17,218 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+  apply tendsto_atTop_atTop_of_monotone'
+  refine StrictMono.monotone ?h.hf
+  have : StrictMono u := fun m n hmn => strict_mono (zero_le m) hmn
+  · exact this
+  refine StrictMono.not_bddAbove_range ?H.hf
+  have : StrictMono u := fun m n hmn => strict_mono (zero_le m) hmn
+  exact this
+
+theorem strict_monotone_implies_monotone (strict_mono : ∀ ⦃m n⦄, 0 ≤ m → m < n → u m < u n) :
+    ∀ ⦃m n⦄, 0 ≤ m → m ≤ n → u m ≤ u n := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/PSeries.lean:135]: And with the above, this is just [StrictMono.monotone](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#StrictMono.monotone)

File: Mathlib/Analysis/PSeries.lean [hunk 4]
```diff
@@ -17,132 +17,218 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+  lift f to ℕ → ℝ≥0 using h_nonneg
+  simp only [NNReal.coe_le_coe] at *
+  have : ∀ k, (u (k + 1) - (u k : ℝ)) = ((u (k + 1) : ℝ≥0) - (u k : ℝ≥0) : ℝ≥0) := by
+    intro k
+    rw [@coe_sub_def]
+    rw [max_eq_left]
+    simp only [NNReal.coe_nat_cast]
+    refine sub_nonneg_of_le ?_
+    norm_cast
+    exact (strict_mono k.zero_le k.lt_succ_self).le
```
Comment (j-loreaux) [inline Mathlib/Analysis/PSeries.lean:206]: a short golf. Note also how you can pass parameters to `have` just like declarations (i.e., the `(k : ℕ)`) so you don't have to write `intro k`.
```suggestion
  have (k : ℕ) : (u (k + 1) - (u k : ℝ)) = ((u (k + 1) : ℝ≥0) - (u k : ℝ≥0) : ℝ≥0) := by
    have := Nat.cast_le (α := ℝ≥0).mpr <| (strict_mono (zero_le k) k.lt_succ_self).le
    simp [NNReal.coe_sub this]
```

File: Mathlib/Analysis/PSeries.lean [hunk 5]
```diff
@@ -17,132 +17,218 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+      intro k
+      refine mul_eq_mul_right_iff.mpr ?_
+      left
+      have foo : 2 ^ k ≤ 2 ^ (k + 1) := by
+        exact le_of_lt (pow_lt_pow one_lt_two (Nat.lt_succ_self k))
+      norm_cast
+      simp [pow_succ, two_mul]
+    simp_rw [this]
+    exact_mod_cast summable_schlomilch_iff_of_nonneg h_nonneg h_mono h_pos strict_mono h_succ_diff
+  exact one_lt_two
```
Comment (j-loreaux) [inline Mathlib/Analysis/PSeries.lean:231]: reasoning in reverse is sometimes quite helpful. Maybe you haven't learned some of these tactics yet:
```suggestion
    pow_lt_pow (Nat.lt_succ_self 1) hmn
  have h_succ_diff : succ_diff_bounded (fun n => 2 ^ n) :=
    ⟨2, by norm_num, by norm_num, by simp [pow_succ, two_mul]⟩
  convert summable_schlomilch_iff_of_nonneg h_nonneg h_mono h_pos strict_mono h_succ_diff
  simp only [Nat.cast_pow, Nat.cast_ofNat]
  simp [pow_succ, two_mul]
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! And welcome to contributing to Mathlib! We're happy to have you here. I have left a few comments. The golfs are probably useless because of the other changes I'm recommending, but I thought I would show you how I might clean things up a bit.

The main issue is that I think your definition of `succ_diff_bounded` is causing some pain. New definitions are always the hardest thing to get right. I think I left you a plan for how to deal with that.

File: Mathlib/Analysis/PSeries.lean (hunk 1 above)
Comment (deepimpactmir) [reply Mathlib/Analysis/PSeries.lean:45]: Thanks for the detailed review! I chose to use `∃ (C : ℝ≥0∞) (_ : C ≠ ∞) (_ : C > 0)` because I am getting some coercions errors that I do not really know how to deal with. I tried changing the definition to
```
def succ_diff_bounded (C : ℕ+) (u : ℕ → ℕ) : Prop :=
  ∀ (n : ℕ), (u (n + 2) - u (n + 1)) ≤ C * (u (n + 1) - u n)
```
which gives me a coercion error
```
application type mismatch
  mul_le_mul_of_nonneg_right (h_succ_diff k)
argument
  h_succ_diff k
has type
  u (k + 2) - u (k + 1) ≤ ↑C * (u (k + 1) - u k) : Prop
but is expected to have type
  ↑(u (k + 2)) - ↑(u (k + 1)) ≤ ↑↑C * (↑(u (k + 1)) - ↑(u k)) : Prop

```
 that I am not sure where to start to resolve.

A more fundamental issue that I have doubts about is that I defined f as `{f : ℕ → ℝ≥0∞}` in the namespace `Finset` instead of the original
```
variable {M : Type*} [OrderedAddCommMonoid M] {f : ℕ → M}
```
Also, if I defined it as `{f : ℕ → ℝ≥0}`, there will be some type mismatch error when doing
```
  refine' iSup_le fun n => (Finset.le_sum_schlomilch hf h_pos hu n).trans (add_le_add_left _ _)
```
in `ENNReal.le_tsum_schlomilch`.

Comment (urkud) [reply Mathlib/Analysis/PSeries.lean:45]: Minor remark: with the current naming convention, you should use `CamelCase` name for this definition.

**Comment by grunweg** [comment]
Hi! I just randomly stumbled over your PR and saw it hasn't been looked at in a while: one reason might be that there's currently a merge conflict - this means it won't show up in the list of reviewable PRs. Cheers!
(I'm not quite working in this area, hence can't review this well myself.)

**Comment by deepimpactmir** [comment]
I have resolved the merge conflict. Thanks for the tip.

File: Mathlib/Analysis/PSeries.lean [hunk 6]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
-#align summable_condensed_iff_of_nonneg summable_condensed_iff_of_nonneg
+  have h_pos : ∀ (n : ℕ), 0 < 2 ^ n := fun n => pow_pos zero_lt_two n
+  have hu_strict : StrictMono (fun n => 2 ^ n) := fun m n hm =>
+      pow_lt_pow_right (Nat.lt_succ_self 1) hm
+  have h_succ_diff : SuccDiffBounded 2 (fun n => 2 ^ n) := by
+    intro n
+    simp [pow_succ, two_mul]
+  have hCpos : 2 > 0 := by norm_num
+  convert summable_schlomilch_iff_of_nonneg h_nonneg h_mono h_pos hu_strict hCpos h_succ_diff
+  simp only [Nat.cast_pow, Nat.cast_ofNat]
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:197]:
```suggestion
```

File: Mathlib/Analysis/PSeries.lean [hunk 7]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+partial sums of the other series.
 -/
 
+/--
+A sequence `u` has the property that its ratio of successive differences is bounded
+when there is a positive real number `C` such that, for all n ∈ ℕ,
+(u (n + 2) - u (n + 1)) ≤ C * (u (n + 1) - u n)
+-/
+def SuccDiffBounded (C : ℕ) (u : ℕ → ℕ) : Prop :=
+  ∀ (n : ℕ), (u (n + 2) - u (n + 1)) ≤ C • (u (n + 1) - u n)
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:43]:
```suggestion
  ∀ n : ℕ, u (n + 2) - u (n + 1) ≤ C • (u (n + 1) - u n)
```

File: Mathlib/Analysis/PSeries.lean [hunk 8]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
-#align finset.sum_condensed_le' Finset.sum_condensed_le'
-
-theorem sum_condensed_le (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (n : ℕ) :
-    (∑ k in range (n + 1), 2 ^ k • f (2 ^ k)) ≤ f 1 + 2 • ∑ k in Ico 2 (2 ^ n + 1), f k := by
-  convert add_le_add_left (nsmul_le_nsmul_right (sum_condensed_le' hf n) 2) (f 1)
-  simp [sum_range_succ', add_comm, pow_succ, mul_nsmul', sum_nsmul]
-#align finset.sum_condensed_le Finset.sum_condensed_le
 
+theorem sum_schlomilch_le {C : ℕ} (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (h_nonneg : ∀ n, 0 <= f n) (hu : Monotone u) (h_succ_diff : SuccDiffBounded C u) (n : ℕ) :
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:88]:
```suggestion
    (h_nonneg : ∀ n, 0 ≤ f n) (hu : Monotone u) (h_succ_diff : SuccDiffBounded C u) (n : ℕ) :
```
`\leq` in VSCode

File: Mathlib/Analysis/PSeries.lean [hunk 9]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+    ∑ k in range (n + 1), (u (k + 1) - u k) • f (u k) ≤
+    (u 1 - u 0) • f (u 0) + C • ∑ k in Ico (u 0 + 1) (u n + 1), f k := by
+  rw [sum_range_succ', add_comm]
+  refine' add_le_add_left _ ((u 1 - u 0) • f (u 0))
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:92]:
```suggestion
  gcongr
```

File: Mathlib/Analysis/PSeries.lean [hunk 10]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+  suffices ∑ k in range n, (u (k + 2) - u (k + 1)) • f (u (k + 1)) ≤
+  C • ∑ k in range n, ((u (k + 1) - u k) • f (u (k + 1))) by
+    refine' le_trans this _
+    apply nsmul_le_nsmul_right
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:96]:
```suggestion
    refine this.trans (nsmul_le_nsmul_right ?_ _)
```
Generally, `refine'` is discouraged, the better alternatives are `apply` (if you don't want to use tons of trailing underscores) and `refine` (where you have to specify with `?_` which goals are still left)

File: Mathlib/Analysis/PSeries.lean [hunk 11]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
   constructor <;> intro h
   · replace hf : ∀ m n, 1 < m → m ≤ n → (f n : ℝ≥0∞) ≤ f m := fun m n hm hmn =>
       ENNReal.coe_le_coe.2 (hf (zero_lt_one.trans hm) hmn)
-    simpa [h, ENNReal.add_eq_top, ENNReal.mul_eq_top] using ENNReal.tsum_condensed_le hf
+    replace h_nonneg : ∀ n, 0 ≤ (f n : ℝ≥0∞) := fun n =>
+      ENNReal.coe_le_coe.2 (h_nonneg n)
+    obtain hC := ENNReal.tsum_schlomilch_le hf h_pos h_nonneg hu_strict h_succ_diff
+    have C_nonzero : C ≠ 0 := ne_of_gt hCpos
+    have : (↑(u 1) - ↑(u 0)) * ↑(f (u 0)) + ↑C * ∑' (k : ℕ), ↑(f k) = ∞ := by exact eq_top_mono hC h
+    simpa [ENNReal.add_eq_top, ENNReal.mul_ne_top, ENNReal.mul_eq_top, C_nonzero]
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:163]:
```suggestion
    replace h_nonneg : ∀ n, 0 ≤ (f n : ℝ≥0∞) := fun n =>
      ENNReal.coe_le_coe.2 (h_nonneg n)
    obtain hC := tsum_schlomilch_le hf h_pos h_nonneg hu_strict h_succ_diff
    have C_nonzero : C ≠ 0 := ne_of_gt hCpos
    have : (↑(u 1) - ↑(u 0)) * ↑(f (u 0)) + ↑C * ∑' (k : ℕ), ↑(f k) = ∞ := by exact eq_top_mono hC h
    simpa [add_eq_top, mul_ne_top, mul_eq_top, C_nonzero]
```
since `ENNReal` is opened I don't see why we should qualify the names (`coe_le_coe` needs to be qualified however)

File: Mathlib/Analysis/PSeries.lean [hunk 12]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+
 theorem summable_condensed_iff_of_nonneg {f : ℕ → ℝ} (h_nonneg : ∀ n, 0 ≤ f n)
     (h_mono : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) :
     (Summable fun k : ℕ => (2 : ℝ) ^ k * f (2 ^ k)) ↔ Summable f := by
-  lift f to ℕ → ℝ≥0 using h_nonneg
-  simp only [NNReal.coe_le_coe] at *
-  exact_mod_cast NNReal.summable_condensed_iff h_mono
-#align summable_condensed_iff_of_nonneg summable_condensed_iff_of_nonneg
+  have h_pos : ∀ (n : ℕ), 0 < 2 ^ n := fun n => pow_pos zero_lt_two n
+  have hu_strict : StrictMono (fun n => 2 ^ n) := fun m n hm =>
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:190]:
```suggestion
  have h_pos : ∀ (n : ℕ), 0 < 2 ^ n := (pow_pos zero_lt_two ·)
  have hu_strict : StrictMono (2 ^ ·) := fun m n hm =>
```
Simple `fun`s can often be replaced with `\.` notation

File: Mathlib/Analysis/PSeries.lean [hunk 13]
```diff
@@ -19,134 +19,183 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+      pow_lt_pow_right (Nat.lt_succ_self 1) hm
+  have h_succ_diff : SuccDiffBounded 2 (fun n => 2 ^ n) := by
```
Comment (mcdoll) [inline Mathlib/Analysis/PSeries.lean:192]:
```suggestion
  have h_succ_diff : SuccDiffBounded 2 (2 ^ ·) := by
```

**Review by mcdoll — COMMENTED** [review]
Mainly stylistic remarks, I also don't know anything about the mathematics, but generally it looks good.

File: Mathlib/Analysis/PSeries.lean (hunk 10 above)
Comment (grunweg) [reply Mathlib/Analysis/PSeries.lean]: I believe it's not because of performance: basically, they are very similar; `refine` is clearer (as it distinguishes so-called holes (`_` in the code) which you want Lean to fill from `?_` which you want Lean to turn into new goals for you.
This [thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/refine.20vs.20refine') on zulip goes into many details. In particular, there are about eight thousand calls of `refine'` left, so these will not be all rewritten manually.

File: Mathlib/Analysis/PSeries.lean [hunk 14]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
     exact add_le_add ihn this
-    exacts [n.one_le_two_pow, Nat.pow_le_pow_of_le_right zero_lt_two n.le_succ]
-  have : ∀ k ∈ Ico (2 ^ n) (2 ^ (n + 1)), f k ≤ f (2 ^ n) := fun k hk =>
-    hf (pow_pos zero_lt_two _) (mem_Ico.mp hk).1
+    exacts [hu n.zero_le, hu n.le_succ]
+  have : ∀ k ∈ Ico (u n) (u (n + 1)), f k ≤ f (u n) := fun k hk =>
+    hf (Nat.succ_le_of_lt (h_pos n)) (mem_Ico.mp hk).1
   convert sum_le_sum this
   simp [pow_succ, two_mul]
-#align finset.le_sum_condensed' Finset.le_sum_condensed'
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:60]: You're removing #align-ed declarations: as a heads-up, I think this is undesirable.
(These were created during porting mathlib from Lean 3 to Lean 4. As I understand it, the current plan is to remove them at some point - but it's not clear when that will be.)

I'm not sure what the best fix is: keep the old declarations as a special case? (Sometimes, that's worth it anyway, if the special case is the version many people need.) Point the align to the new version?

 I'll ask on zulip.

File: Mathlib/Analysis/PSeries.lean [hunk 15]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
-  refine' iSup_le fun n => (Finset.le_sum_condensed hf n).trans (add_le_add_left _ _)
-  simp only [nsmul_eq_mul, Nat.cast_pow, Nat.cast_two]
+open NNReal in
+theorem le_tsum_schlomilch (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (hu_strict : StrictMono u) :
+    ∑' k , f k ≤ ∑ k in range (u 0), f k + ∑' k : ℕ, (u (k + 1) - u k) * f (u k) := by
+  have hu : Monotone u := by
+    apply StrictMono.monotone hu_strict
+  rw [ENNReal.tsum_eq_iSup_nat' (StrictMono.tendsto_atTop hu_strict)]
+  refine' iSup_le fun n => (Finset.le_sum_schlomilch hf h_pos hu n).trans (add_le_add_left _ _)
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:121]: Optional, but given you're rewriting the code anyway: you may also replace this refine' by e.g. `refine`.

(Rule of thumb: replace `refine'` by `refine`; Lean should error "can't synthesize missing placeholder", underlining an "_". Replace these by `?_`, possibly repeat this. If Lean still complains, keep it at `refine'`. If you get stuck, feel free to ask for help - #new members on zulip is open for *all* kinds of questions, there are no dumb questions! - or don't pursue this change.)

File: Mathlib/Analysis/PSeries.lean [hunk 16]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
   apply ENNReal.sum_le_tsum
-#align ennreal.le_tsum_condensed ENNReal.le_tsum_condensed
 
-theorem tsum_condensed_le (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) :
-    (∑' k : ℕ, 2 ^ k * f (2 ^ k)) ≤ f 1 + 2 * ∑' k, f k := by
-  rw [ENNReal.tsum_eq_iSup_nat' (tendsto_atTop_mono Nat.le_succ tendsto_id), two_mul, ← two_nsmul]
+theorem tsum_schlomilch_le {C : ℕ} (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (h_nonneg : ∀ n, 0 <= f n) (hu_strict : StrictMono u) (h_succ_diff : SuccDiffBounded C u) :
+    ∑' k : ℕ, (u (k + 1) - u k) * f (u k) ≤ (u 1 - u 0) * f (u 0) + C * ∑' k, f k := by
+  have hu : Monotone u := by
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:130]: You can simplify this a bit further:
- an `apply` on the last line usually be converted to `exact`, an usually this is desirable
(There are exceptions to this rule, but "always use exact" is a good first rule of thumb.)
- `by exact` can be omitted --- then you just give a proof term, no need to use tactic mode
- you can use dot notation: since `hu_strict` has type `StrictMono` and you're applying a lemma from that namespace, you can also write this as `hu_strict.monotone`.
Altogether, you obtain `have hu : Monotone u := hu_strict.monotone`.

- at this point, you can consider "inlining" this `have`, i.e. replacing it by its proof whenever you use it.
My rule of thumb is that if a proof term is long or you use it at least three times, you should probably extract it. If it's short and you use it once (like here), I would inline.

File: Mathlib/Analysis/PSeries.lean [hunk 17]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
     iSup_le fun n =>
       le_trans _
         (add_le_add_left
-          (nsmul_le_nsmul_right (ENNReal.sum_le_tsum <| Finset.Ico 2 (2 ^ n + 1)) _) _)
-  simpa using Finset.sum_condensed_le hf n
-#align ennreal.tsum_condensed_le ENNReal.tsum_condensed_le
-
+          (mul_le_mul_of_nonneg_left (ENNReal.sum_le_tsum <| Finset.Ico (u 0 + 1) (u n + 1)) _) _)
+  simpa using Finset.sum_schlomilch_le hf h_pos h_nonneg hu h_succ_diff n
+  apply zero_le _
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:139]: This can be `exact` again.

File: Mathlib/Analysis/PSeries.lean [hunk 18]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+      ENNReal.coe_le_coe.2 (h_nonneg n)
+    obtain hC := tsum_schlomilch_le hf h_pos h_nonneg hu_strict h_succ_diff
+    have : (↑(u 1) - ↑(u 0)) * ↑(f (u 0)) + ↑C * ∑' (k : ℕ), ↑(f k) = ∞ := by exact eq_top_mono hC h
+    simpa [add_eq_top, mul_ne_top, mul_eq_top, hC_nonzero]
   · replace hf : ∀ m n, 0 < m → m ≤ n → (f n : ℝ≥0∞) ≤ f m := fun m n hm hmn =>
       ENNReal.coe_le_coe.2 (hf hm hmn)
-    simpa [h, ENNReal.add_eq_top] using ENNReal.le_tsum_condensed hf
-#align nnreal.summable_condensed_iff NNReal.summable_condensed_iff
-
+    have : ∑ k in range (u 0), ↑(f k) ≠ ∞ := by
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:164]: This `have` you can also simplify, similar to the one above.

File: Mathlib/Analysis/PSeries.lean [hunk 19]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+  exact_mod_cast NNReal.summable_schlomilch_iff hf h_pos h_nonneg hu_strict hC_nonzero h_succ_diff
+
 theorem summable_condensed_iff_of_nonneg {f : ℕ → ℝ} (h_nonneg : ∀ n, 0 ≤ f n)
     (h_mono : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) :
     (Summable fun k : ℕ => (2 : ℝ) ^ k * f (2 ^ k)) ↔ Summable f := by
-  lift f to ℕ → ℝ≥0 using h_nonneg
-  simp only [NNReal.coe_le_coe] at *
-  exact_mod_cast NNReal.summable_condensed_iff h_mono
-#align summable_condensed_iff_of_nonneg summable_condensed_iff_of_nonneg
+  have h_pos : ∀ (n : ℕ), 0 < 2 ^ n := fun n => pow_pos zero_lt_two n
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:187]: You can also simplify this have, using "nested have's".

File: Mathlib/Analysis/PSeries.lean [hunk 20]
```diff
@@ -19,134 +19,180 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+    (Summable fun k : ℕ => (u (k + 1) - (u k : ℝ≥0)) * f (u k)) ↔ Summable f := by
+  simp only [← tsum_coe_ne_top_iff_summable, Ne.def, not_iff_not, ENNReal.coe_mul]
   constructor <;> intro h
   · replace hf : ∀ m n, 1 < m → m ≤ n → (f n : ℝ≥0∞) ≤ f m := fun m n hm hmn =>
       ENNReal.coe_le_coe.2 (hf (zero_lt_one.trans hm) hmn)
-    simpa [h, ENNReal.add_eq_top, ENNReal.mul_eq_top] using ENNReal.tsum_condensed_le hf
+    replace h_nonneg : ∀ n, 0 ≤ (f n : ℝ≥0∞) := fun n =>
+      ENNReal.coe_le_coe.2 (h_nonneg n)
+    obtain hC := tsum_schlomilch_le hf h_pos h_nonneg hu_strict h_succ_diff
+    have : (↑(u 1) - ↑(u 0)) * ↑(f (u 0)) + ↑C * ∑' (k : ℕ), ↑(f k) = ∞ := by exact eq_top_mono hC h
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:160]: Here's a "by exact" you can also remove.

**Review by grunweg — COMMENTED** [review]
I have a few more comments. One comment may need more attention (which I'll ask about on zulip); the others are small bits of polish: we can make your code even shorter.
I remember getting lots of these in my first PRs - but it's also an opportunity to learn more, for future Lean code you may want to write.

File: Mathlib/Analysis/PSeries.lean (hunk 19 above)
Comment (deepimpactmir) [reply Mathlib/Analysis/PSeries.lean:184]: I must have missed this in the documentation. Can you explain what you mean by nested have's?

**Comment by deepimpactmir** [comment]
No worries! Thanks for the comments.

File: Mathlib/Analysis/PSeries.lean (hunk 14 above)
Comment (deepimpactmir) [reply Mathlib/Analysis/PSeries.lean:60]: Thanks for the thread on Zulip. I have added back the theorems `summable_condensed_iff` and `summable_condensed_iff_of_nonneg` since they are more frequently used. I am not sure if we should keep the old declarations for the rest of the theorems since they are really lemmas for the final two theorems.

File: Mathlib/Analysis/PSeries.lean [hunk 21]
```diff
@@ -19,84 +19,137 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+theorem le_sum_condensed' (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) (n : ℕ) :
+    (∑ k in Ico 1 (2 ^ n), f k) ≤ ∑ k in range n, 2 ^ k • f (2 ^ k) := by
+  convert le_sum_schlomilch' hf (fun n => pow_pos zero_lt_two n)
+    (fun m n hm => pow_le_pow_right one_le_two hm) n using 2
+  simp [pow_succ, mul_two, two_mul]
 #align finset.le_sum_condensed' Finset.le_sum_condensed'
 
+theorem le_sum_schlomilch (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (hu : Monotone u) (n : ℕ) : (∑ k in range (u n), f k) ≤ ∑ k in range (u 0), f k +
+    ∑ k in range n, (u (k + 1) - u k) • f (u k) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:75]: The line break ends up in a bit of a strange place here; I suggest
```suggestion
    (hu : Monotone u) (n : ℕ) :
    (∑ k in range (u n), f k) ≤
      ∑ k in range (u 0), f k + ∑ k in range n, (u (k + 1) - u k) • f (u k) := by
```

File: Mathlib/Analysis/PSeries.lean [hunk 22]
```diff
@@ -19,84 +19,137 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
     (∑ k in range (2 ^ n), f k) ≤ f 0 + ∑ k in range n, 2 ^ k • f (2 ^ k) := by
   convert add_le_add_left (le_sum_condensed' hf n) (f 0)
   rw [← sum_range_add_sum_Ico _ n.one_le_two_pow, sum_range_succ, sum_range_zero, zero_add]
 #align finset.le_sum_condensed Finset.le_sum_condensed
 
-theorem sum_condensed_le' (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (n : ℕ) :
-    (∑ k in range n, 2 ^ k • f (2 ^ (k + 1))) ≤ ∑ k in Ico 2 (2 ^ n + 1), f k := by
+theorem sum_schlomilch_le' (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (hu : Monotone u) (n : ℕ) : (∑ k in range n, (u (k + 1) - u k) • f (u (k + 1))) ≤
+    ∑ k in Ico (u 0 + 1) (u n + 1), f k := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:87]: Also here:
```suggestion
    (hu : Monotone u) (n : ℕ) :
    (∑ k in range n, (u (k + 1) - u k) • f (u (k + 1))) ≤ ∑ k in Ico (u 0 + 1) (u n + 1), f k := by
```

File: Mathlib/Analysis/PSeries.lean [hunk 23]
```diff
@@ -19,84 +19,137 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
 
-variable {f : ℕ → ℝ≥0∞}
+variable {u : ℕ → ℕ} {f : ℕ → ℝ≥0∞}
+
+open NNReal in
+theorem le_tsum_schlomilch (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (hu_strict : StrictMono u) :
+    ∑' k , f k ≤ ∑ k in range (u 0), f k + ∑' k : ℕ, (u (k + 1) - u k) * f (u k) := by
+  have hu : Monotone u := by
+    apply StrictMono.monotone hu_strict
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:146]: I'd just use `hu_strict.monotone` in the one place you need it below. Also, maybe rename `hu_strict` to `hu`

File: Mathlib/Analysis/PSeries.lean [hunk 24]
```diff
@@ -19,84 +19,137 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+  convert sum_le_sum this
+  simp [smul_sum]
+
 theorem sum_condensed_le (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (n : ℕ) :
     (∑ k in range (n + 1), 2 ^ k • f (2 ^ k)) ≤ f 1 + 2 • ∑ k in Ico 2 (2 ^ n + 1), f k := by
   convert add_le_add_left (nsmul_le_nsmul_right (sum_condensed_le' hf n) 2) (f 1)
   simp [sum_range_succ', add_comm, pow_succ', mul_nsmul', sum_nsmul]
 #align finset.sum_condensed_le Finset.sum_condensed_le
-
 end Finset
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:133]: I think we prefer keeping this empty line; also below

File: Mathlib/Analysis/PSeries.lean [hunk 25]
```diff
@@ -19,84 +19,137 @@ converges if and only if so does `∑ k, 2 ^ k f (2 ^ k)`. We prove this test in
...
+
+open NNReal in
+theorem le_tsum_schlomilch (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (hu_strict : StrictMono u) :
+    ∑' k , f k ≤ ∑ k in range (u 0), f k + ∑' k : ℕ, (u (k + 1) - u k) * f (u k) := by
+  have hu : Monotone u := by
+    apply StrictMono.monotone hu_strict
+  rw [ENNReal.tsum_eq_iSup_nat' (StrictMono.tendsto_atTop hu_strict)]
+  refine iSup_le fun n => (Finset.le_sum_schlomilch hf h_pos hu n).trans (add_le_add_left ?_ _)
+  have (k : ℕ) : ((u (k + 1) : ℝ≥0∞) - (u k : ℝ≥0∞) : ℝ≥0∞) = (u (k + 1) - (u k : ℕ) : ℕ) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:149]: I think at least one of the `ℝ≥0∞` type annotations is unnecessary; can you take a look?

File: Mathlib/Analysis/PSeries.lean [hunk 26]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
   apply ENNReal.sum_le_tsum
 #align ennreal.le_tsum_condensed ENNReal.le_tsum_condensed
 
+theorem tsum_schlomilch_le {C : ℕ} (hf : ∀ ⦃m n⦄, 1 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (h_nonneg : ∀ n, 0 <= f n) (hu_strict : StrictMono u) (h_succ_diff : SuccDiffBounded C u) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:163]: This appears to be true for `hu : Monotone u`

File: Mathlib/Analysis/PSeries.lean [hunk 27]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
+    (Summable fun k : ℕ => (u (k + 1) - (u k : ℝ≥0)) * f (u k)) ↔ Summable f := by
+  simp only [← tsum_coe_ne_top_iff_summable, Ne, not_iff_not, ENNReal.coe_mul]
   constructor <;> intro h
   · replace hf : ∀ m n, 1 < m → m ≤ n → (f n : ℝ≥0∞) ≤ f m := fun m n hm hmn =>
       ENNReal.coe_le_coe.2 (hf (zero_lt_one.trans hm) hmn)
-    simpa [h, ENNReal.add_eq_top, ENNReal.mul_eq_top] using ENNReal.tsum_condensed_le hf
+    have h_nonneg : ∀ n, 0 ≤ (f n : ℝ≥0∞) := fun n =>
+      ENNReal.coe_le_coe.2 (f n).2
+    obtain hC := tsum_schlomilch_le hf h_pos h_nonneg hu_strict h_succ_diff
+    have : (↑(u 1) - ↑(u 0)) * ↑(f (u 0)) + ↑C * ∑' (k : ℕ), ↑(f k) = ∞ := eq_top_mono hC h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:204]: I'm always wary of up-arrows without a type annotation. Do they actually do something? If so, try writing this with the target type

File: Mathlib/Analysis/PSeries.lean [hunk 28]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
+    simpa [add_eq_top, mul_ne_top, mul_eq_top, hC_nonzero]
   · replace hf : ∀ m n, 0 < m → m ≤ n → (f n : ℝ≥0∞) ≤ f m := fun m n hm hmn =>
       ENNReal.coe_le_coe.2 (hf hm hmn)
-    simpa [h, ENNReal.add_eq_top] using ENNReal.le_tsum_condensed hf
-#align nnreal.summable_condensed_iff NNReal.summable_condensed_iff
+    have : ∑ k in range (u 0), ↑(f k) ≠ ∞ := ne_top_of_lt (sum_lt_top fun a _ => coe_ne_top)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:208]: Ditto. Also, instead of `ne_top_of_lt` I guess you can use `(sum_lt_top ..).ne'`

File: Mathlib/Analysis/PSeries.lean [hunk 29]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
+    simpa [h, add_eq_top, this] using le_tsum_schlomilch hf h_pos hu_strict
 
+open ENNReal in
+theorem summable_condensed_iff {f : ℕ → ℝ≥0} (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) :
+    (Summable fun k : ℕ => (2 : ℝ≥0) ^ k * f (2 ^ k)) ↔ Summable f := by
+  have h_pos (n : ℕ) : 0 < 2 ^ n := pow_pos zero_lt_two n
+  have hu_strict : StrictMono (2 ^ ·) := fun m n hm =>
+      pow_lt_pow_right (Nat.lt_succ_self 1) hm
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:216]:
```suggestion
  have hu_strict : StrictMono (2 ^ ·) := pow_right_strictMono one_lt_two
```

File: Mathlib/Analysis/PSeries.lean [hunk 30]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
+  have h_succ_diff : SuccDiffBounded 2 (2 ^ ·) := by
+    intro n
+    simp [pow_succ, mul_two, two_mul]
+  have hC_nonzero : 2 ≠ 0 := by norm_num
+  convert summable_schlomilch_iff hf h_pos hu_strict hC_nonzero h_succ_diff
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:221]:
```suggestion
  convert summable_schlomilch_iff hf h_pos hu_strict two_ne_zero h_succ_diff
```

File: Mathlib/Analysis/PSeries.lean [hunk 31]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
+  simp [pow_succ, mul_two, two_mul]
 end NNReal
+#align nnreal.summable_condensed_iff NNReal.summable_condensed_iff
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:224]:
```suggestion
#align nnreal.summable_condensed_iff NNReal.summable_condensed_iff

end NNReal
```

File: Mathlib/Analysis/PSeries.lean [hunk 32]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
 
 open NNReal in
-/-- Cauchy condensation test for antitone series of nonnegative real numbers. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:142]: Please put this comment back on the theorem below

File: Mathlib/Analysis/PSeries.lean [hunk 33]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
+/-- for series of nonnegative real numbers. -/
+theorem summable_schlomilch_iff_of_nonneg {C : ℕ} {u : ℕ → ℕ} {f : ℕ → ℝ} (h_nonneg : ∀ n, 0 ≤ f n)
+    (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m) (h_pos : ∀ n, 0 < u n)
+    (hu_strict : StrictMono u) (hC_nonzero : C ≠ 0) (h_succ_diff : SuccDiffBounded C u) :
+    (Summable fun k : ℕ => (u (k + 1) - (u k : ℝ)) * f (u k)) ↔ Summable f := by
+  lift f to ℕ → ℝ≥0
+  exact h_nonneg
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:233]:
```suggestion
  lift f to ℕ → ℝ≥0 using h_nonneg
```

File: Mathlib/Analysis/PSeries.lean [hunk 34]
```diff
@@ -106,46 +159,97 @@ theorem le_tsum_condensed (hf : ∀ ⦃m n⦄, 0 < m → m ≤ n → f n ≤ f m
...
-  simp only [NNReal.coe_le_coe] at *
-  exact_mod_cast NNReal.summable_condensed_iff h_mono
+  have h_pos (n : ℕ) : 0 < 2 ^ n := pow_pos zero_lt_two n
+  have hu_strict : StrictMono (2 ^ ·) := fun m n hm =>
+      pow_lt_pow_right (Nat.lt_succ_self 1) hm
+  have h_succ_diff : SuccDiffBounded 2 (2 ^ ·) := by
+    intro n
+    simp [pow_succ, mul_two, two_mul]
+  have hC_nonzero : 2 ≠ 0 := by norm_num
+  convert summable_schlomilch_iff_of_nonneg h_nonneg h_mono h_pos hu_strict hC_nonzero h_succ_diff
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/PSeries.lean:251]: Same comments as above

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
Apologies for the delay here. I also have a number of minor comments, but overall, it looks good to me.

**Comment by deepimpactmir** [comment]
@Ruben-VandeVelde Sorry I got a little busy with life! Thanks for suggesting and making the changes!

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
